US07528147B2
A solution of 2-(6-benzyloxy-5-methoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (1 g, 1.9 mmol) in dimethylformamide (10 ml) is placed in a 25 ml three-necked flask placed under argon, then sodium hydride (0.063 g; 2.101 mmol) is added and the mixture is left to agitate for 15 minutes. When there is no longer any gas being given off, methyl iodide (0.131 ml, 2.101 mmol) is added dropwise and the mixture is left to react at 21° C. for 2 hours. The reaction medium is run into 100 ml of distilled water, and then extracted with 2 times 100 ml of dichloromethane. The organic extracts are combined, dried over magnesium sulfate, filtered, and evaporated to dryness under reduced pressure. The evaporation compound is triturated in diisopropyl ether. The pulverulent solid compound thus obtained is filtered off and rinsed. 2-(6-Benzyloxy-5-methoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.888 g; 86%) is isolated in the form of a beige-colored solid, the characteristics of which are as follows:

reactant | 2-(6-benzyloxy-5-methoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1.9 mmol, 1 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CNC2=C1)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C)OC | C30H25N3O4S
reactant | sodium hydride | 2.101 mmol, 0.063 g | [H-].[Na+]
reactant | methyl iodide | 2.101 mmol, 0.131 ml | CI | CH3I
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(6-Benzyloxy-5-methoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.888 g, 86% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CN(C2=C1)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C)OC | C31H27N3O4S
